US07332529B2
Synthesis of 3,5-didecoxybenzyl Amine
Catalytic (5% by mass) palladium on carbon (0.51 g) was placed into a hydrogenation bottle. The bottle was then placed under N2. To the bottle, 50/50 ether methanol (10 mL) was added. 3,5-didecoxybenzyl azide (5.0 g, 11.2 mmol) was dissolved in 50/50 ether/methanol (60 mL) and transferred to the bottle. The bottle was attached to a hydrogenator with H2 pressure at 40 psi and left for 1 hour. Thin layer chromatography of the dichloromethane/10% hexanes showed the presence of an azide. The bottle was left on a hydrogenator with H2 at 40 psi for an additional hour after which time, thin layer chromatography then showed no evidence of the starting material. The contents of the bottle were then vacuum filtered over celite. The filtrate was then concentrated using rotary evaporation and then placed under high vacuum for 4 or more hours. The resulting viscous liquid was dark yellow. This produced a 4.6 g yield or a 97.9% yield of the derivative. The NMR characterization data for this derivative is as follows. 1NMR (300 MHz, CDCl3): 0.88 (t, J=6.6, 6H, CH2CH3), 1.27-1.46 (m, 28H, CH2(CH2)7), 1.77 (p, J=6.6, 4H, OCH2CH2), 3.92 (t, J=6.6, 4H, OCH2), 3.78 (s, 2H, ArCH2NH2), 6.33 (t, J=2.2, 1H, ArH), 6.44 (d, J=2.2, 2H, ArH). 13C NMR (75 MHZ, CDCl3): 14.23, 22.79, 26.16, 29.39, 29.45, 29.50, 29.69, 29.72, 32.01, 46.80, 69.04, 99.61, 105.35, 145.79, 160.58.

reactant | 3,5-didecoxybenzyl azide | 11.2 mmol, 5.0 g | C(CCCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1)OCCCCCCCCCC | C27H47N3O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.51 g | [Pd] | Pd
solvent | ether methanol | 60 mL | CCOCC.CO
solvent | ether methanol | 10 mL | CCOCC.CO
product | 3,5-didecoxybenzyl Amine | 97.9% yield | C(CCCCCCCCC)OC=1C=C(CN)C=C(C1)OCCCCCCCCCC | C27H49NO2
